US05723411
3,4-Dihydro-4,4,5,8-tetramethyl-2H-1-benzothiopyran-6-carboxaldehyde
6-Bromo-3,4-dihydro-4,4,5,8-tetramethyl-2H-1-benzothiopyran (19.8 g, World Patent Application 95/04054) was dissolved in diethyl ether (350 mL) and treated with n-butyllithium (2.5N in hexanes, 42 mL). The mixture was stirred at room temperature for 1 h and then cooled in a dry-ice/acetone bath. Dimethylformamide (16 mL) was added over a period of several minutes and the reaction bath was allowed to warm to -40° C. Hydrochloric acid (1N aqueous, 100 mL) was added and the mixture was allowed to warm to 23° C. The organic phase was separated and washed with saturated aqueous sodium bicarbonate solution (100 mL). The organic phase was dried over magnesium sulfate, filtered, and evaporated under reduced pressure. The residue was subjected to chromatography on silica gel using hexanes/ether (9:1) as eluent to afford the desired compound as a yellow semi-solid (7.7 g). 1H NMR(CDCl3): δ 1.5 (6H), 2.0 (2H), 2.3 (3H), 2.8 (3H), 3.0 (2H), 7.4 (1H), 10.2 (1H).

reactant | 6-Bromo-3,4-dihydro-4,4,5,8-tetramethyl-2H-1-benzothiopyran | 19.8 g | BrC=1C=C(C2=C(C(CCS2)(C)C)C1C)C | C13H17BrS
reactant | n-butyllithium | 2.5N, 42 mL | C(CCC)[Li]
reactant | Dimethylformamide | 16 mL | CN(C=O)C | C3H7NO
reactant | Hydrochloric acid | 1N, 100 mL | Cl | ClH
solvent | diethyl ether | 350 mL | C(C)OCC | C4H10O
product | 3,4-Dihydro-4,4,5,8-tetramethyl-2H-1-benzothiopyran-6-carboxaldehyde | 7.7 g | CC1(CCSC2=C1C(=C(C=C2C)C=O)C)C | C14H18OS
